Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain, shortness of breath 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ s/p Lupron trigger and vaginal oocyte
retrieval ___ admitted for pain control, also with ascites on
imaging.

She reports since starting the Lupron injection feeling mildly
nauseous, experiencing diarrhea, and "hot flashes". 

She initially presented to ___ clinic on ___ AM, and was
transferred to ___ ED for work-up of her chest pain
and SOB, after a neg work-up she was transferred to ___ ED for
admission to GYN service for further work-up.

Endorses sharp chest pain with deep breaths since ___ that
radiates to her shoulders and neck, but that it has remained
stable since she was seen in the ED with negative w/up for ACS 
or
PE, and has not worsened or changed in character. Was told by
providers that it was likely related to fluid below her lungs.
Endorses light vaginal bleeding similar to lightest day of her
period
 
Past Medical History:
OBHx: 2 SVD's no complications
GYNHx: abnormal Pap's requiring Q 6mos Pap's, she reports she 
has
fallen behind on her monitoring
PMH: denies
PSH: wisdom teeth removal, vaginal oocyte retrieval

 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, non-distended, non-tender 
Ext: no tenderness to palpation
 
Pertinent Results:
Labs on Admission:

___ 09:05PM BLOOD WBC-9.6 RBC-4.15 Hgb-12.3 Hct-36.3 MCV-88 
MCH-29.6 MCHC-33.9 RDW-13.9 RDWSD-44.2 Plt ___
___ 09:05PM BLOOD Neuts-69.2 ___ Monos-7.7 Eos-0.6* 
Baso-0.2 Im ___ AbsNeut-6.66* AbsLymp-2.11 AbsMono-0.74 
AbsEos-0.06 AbsBaso-0.02
___ 09:05PM BLOOD Glucose-82 UreaN-5* Creat-0.7 Na-137 
K-3.9 Cl-104 HCO3-22 AnGap-11
___ 09:13PM BLOOD Lactate-0.7

___ 10:40PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:40PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:40PM URINE RBC-3* WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-6

Relevant Labs: 
___ 06:50AM BLOOD WBC-7.8 RBC-4.04 Hgb-11.7 Hct-35.3 MCV-87 
MCH-29.0 MCHC-33.1 RDW-13.9 RDWSD-44.7 Plt ___
___ 06:50AM BLOOD Glucose-77 UreaN-5* Creat-0.7 Na-141 
K-3.9 Cl-106 HCO3-24 AnGap-11

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service for 
chest pain, shortness of breath, and abdominal pain following 
Lupron trigger and oocyte retrieval at ___ IVF on ___.

She originally presented to ___ IVF on ___ AM with chest 
pain and SOB. She was then transferred to ___ for further 
evaluation. She had a CTA that was negative for PE or pleural 
effusions. EKG was within normal limits. D-dimer was 206. CT 
abdomen pelvis showed enlarged ovaries, R 9.5x6cm L 7x5cm, 
numerous large follicles in both ovaries, and moderate ascites 
in the abdomen and pelvis. She was then transferred to ___ ED 
on ___ for further evaluation and admission to the gynecology 
service on ___ for observation and pain control. 

Upon admission to the gynecology service, her pleuritic chest 
pain had resolved. She had ongoing abdominal pain that was 
monitored with serial abdominal exams. Her pain was controlled 
with PO oxycodone. She had intermittent nausea that improved 
with Zofran.   

By hospital day 3, she was tolerating a regular diet without 
nausea or vomiting, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition. 

 
Medications on Admission:
Lupron trigger, otherwise denies

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
please take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
3.  Ondansetron ODT ___ mg PO Q8H:PRN Nausea/Vomiting - First 
Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
do not drink or drive while taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chest and abdominal pain following oocyte retrieval, ascites 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service as a transfer for 
chest pain and shortness of breath following your procedure at 
___ IVF on ___. They did an EKG that was normal and did 
imaging that showed no blood clots in your lungs. We did imaging 
of your abdomen and pelvis, which showed some fluid collected in 
your pelvis called ascites. We monitored you in the hospital for 
nausea and pain control. You have recovered well and the team 
believes you are ready to be discharged home. Please call ___ 
IVF office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___